US07943609B2
(11S)-11-[(benzyloxy)methyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinoline (7.5 g, 22 mmol) was added to a mixture of methanol (270 mL) and acetyl chloride (3.0 mL, 43 mmol) in a pressure bottle. Palladium on carbon (10%, 1.5 g) was then added and the reaction mixture was shaken under H2 at 48 PSI (3.3×105 Pa). After 11 days, the reaction mixture was filtered through a pad of CELITE filter agent. The pad was rinsed with methanol. The combined filtrates were treated with 2 mL of 50% aqueous NaOH solution and the mixture was concentrated under reduced pressure to afford an orange oil. Chromatography (SiO2, 0-30% CMA/CHCl3) gave an oil that was concentrated from acetonitrile under reduced pressure to give 2.0 g of (11S)-11-hydroxymethyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinoline as a tan solid.

reactant | (11S)-11-[(benzyloxy)methyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinoline | 22 mmol, 7.5 g | C(C1=CC=CC=C1)OC[C@H]1COCC=2N1C1=C(C=NC3=CC=CC=C13)N2 | C21H19N3O2
reactant | methanol | 270 mL | CO | CH4O
reactant | acetyl chloride | 43 mmol, 3.0 mL | C(C)(=O)Cl | C2H3ClO
catalyst | Palladium on carbon | 1.5 g | [Pd] | Pd
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (11S)-11-hydroxymethyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinoline | 2.0 g | OC[C@H]1COCC=2N1C1=C(C=NC3=CC=CC=C13)N2 | C14H13N3O2
